US08247403B2
(2) 9-cyclopropyl-6-fluoro-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride
A mixture of tert-butyl 9-cyclopropyl-6-fluoro-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (270 mg, 0.878 mmol), ethyl acetate (4 ml) and 4N hydrogen chloride-ethyl acetate solution (4 ml) was stirred at room temperature for 1 hr, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (144 mg, 67.3%) as a solid.

reactant | tert-butyl 9-cyclopropyl-6-fluoro-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.878 mmol, 270 mg | C1(CC1)C1=CC=C(C=2CN(CCOC21)C(=O)OC(C)(C)C)F | C17H22FNO3
reactant | hydrogen chloride-ethyl acetate | 4N, 4 ml | C(C)(=O)OCC.Cl
solvent | ethyl acetate | 4 ml | C(C)(=O)OCC | C4H8O2
product | 9-cyclopropyl-6-fluoro-2,3,4,5-tetrahydro-1,4-benzoxazepine hydrochloride | 144 mg, 67.3% | Cl.C1(CC1)C1=CC=C(C=2CNCCOC21)F | InChI=1S/C12H14FNO.ClH/c13-11-4-3-9(8-1-2-8)12-10(11)7-14-5-6-15-12;/h3-4,8,14H,1-2,5-7H2;1H
